### PR TITLE
bump toolchain and Mathlib to v4.21.0

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/366.lean [hunk 1]
```diff
@@ -50,7 +50,7 @@ theorem erdos_366.variant.three_two :
 /--
 Are there any consecutive pairs of $3$-full integers?
 -/
-@[category undergraduate, AMS 11]
+@[category research open, AMS 11]
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/366.lean]:
```suggestion
@[category undergraduate, AMS 11]
```

File: FormalConjectures/ErdosProblems/306.lean [hunk 2]
```diff
@@ -32,8 +32,8 @@ each the product of two distinct primes, such that $\frac{a}{b}=\frac{1}{n_1}+\c
 @[category research open, AMS 11]
 theorem erdos_306 : (∀ (q : ℚ), 0 < q → Squarefree q.den →
     ∃ k : ℕ, ∃ (n : Fin (k + 1) → ℕ), n 0 = 1 ∧ StrictMono n ∧
-    (∀ i ∈ Finset.Icc 1 k, ω (n i) = 2 ∧ Ω (n i) = 2) ∧
-    q = ∑ i ∈ Finset.Icc 1 k, (1 : ℚ) / (n i)) ↔ answer(sorry) := by
+    (∀ i ∈ Finset.Icc 1 (⟨k, lt_add_one k⟩ : Fin (k + 1)) , ω (n i) = 2 ∧ Ω (n i) = 2) ∧
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/306.lean]: This is `Fin.last k`

File: FormalConjectures/ErdosProblems/392.lean [hunk 3]
```diff
@@ -40,8 +40,8 @@ $$
 -/
 @[category research solved, AMS 11]
 theorem erdos_392 (A : ℕ → ℕ) (h : ∀ n > 0,
-    IsLeast { t + 1 | (t) (_ : ∃ a : Fin (t + 1) → ℕ, (n)! = ∏ i, a i ∧ Monotone a ∧ a t ≤ n ^ 2) }
-      (A n)) :
+    IsLeast { t + 1 | (t) (_ : ∃ a : Fin (t + 1) → ℕ, (n)! = ∏ i, a i ∧
+      Monotone a ∧ a ⟨t, by omega⟩ ≤ n ^ 2) } (A n)) :
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/392.lean]: Also `Fin.last`

File: FormalConjectures/Paper/HartshorneConjecture.lean [hunk 4]
```diff
@@ -25,13 +25,24 @@ namespace HartshorneConjecture
...
+
 open CategoryTheory Limits MvPolynomial AlgebraicGeometry
 
-variable (S : Scheme)
+variable (S : Scheme.{u})
 
 namespace AlgebraicGeometry.Scheme
 
-attribute [local instance] CategoryTheory.Types.instConcreteCategory
+attribute [local instance] CategoryTheory.Types.instConcreteCategory  Types.instFunLike
```
Comment (eric-wieser) [inline FormalConjectures/Paper/HartshorneConjecture.lean]:
```suggestion
attribute [local instance] CategoryTheory.Types.instConcreteCategory Types.instFunLike
```

File: FormalConjectures/Paper/HartshorneConjecture.lean [hunk 5]
```diff
@@ -25,13 +25,24 @@ namespace HartshorneConjecture
...
+
+local instance (X : TopologicalSpace.Opens S) :
+    ((Opens.grothendieckTopology S).over X).WEqualsLocallyBijective (Type u) :=
+  CategoryTheory.GrothendieckTopology.instWEqualsLocallyBijectiveTypeHomObjForget
+    ((Opens.grothendieckTopology S).over X)
+
+local instance (X : TopologicalSpace.Opens S) :
+    ((Opens.grothendieckTopology S).over X).WEqualsLocallyBijective (AddCommGrp.{u}):=
+  inferInstance
```
Comment (eric-wieser) [inline FormalConjectures/Paper/HartshorneConjecture.lean:47]: Can you add a comment about these? If the second is `inferInstance`, do we need it at all?

File: docbuild/scripts/overwrite_index.lean [hunk 6]
```diff
@@ -105,11 +105,11 @@ unsafe def runWithImports {α : Type} (actionToRun : CoreM α) : IO α := do
     return result
 
 unsafe def main (args : List String) : IO Unit := do
-  let .some file := args.get? 0
+  let .some file := (args[0]? : Option String)
```
Comment (eric-wieser) [inline docbuild/scripts/overwrite_index.lean]: Why is the ascription needed here?

File: FormalConjectures/ErdosProblems/786.lean [hunk 7]
```diff
@@ -73,8 +73,8 @@ theorem erdos_786.parts.i.example (A : Set ℕ) (hA : A = { n | n % 4 = 2 }) :
 consecutive primes.
 -/
 def consecutivePrimes {k : ℕ} (p : Fin k.succ → ℕ) :=
-    ∀ i, (p i).Prime ∧ StrictMono p ∧
-      ∀ i < k, ∀ m ∈ Set.Ioo (p i) (p (i + 1)), ¬m.Prime
+    (∀ i, (p i).Prime) ∧ StrictMono p ∧
+      ∀ i : Fin k.succ, i < k → ∀ m ∈ Set.Ioo (p i) (p (i + 1)), ¬m.Prime
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/786.lean]:
```suggestion
      ∀ i : Fin k, ∀ m ∈ Set.Ioo (p i.castSucc) (p i.succ), ¬m.Prime
```

File: FormalConjectures/ErdosProblems/786.lean [hunk 8]
```diff
@@ -73,8 +73,8 @@ theorem erdos_786.parts.i.example (A : Set ℕ) (hA : A = { n | n % 4 = 2 }) :
 consecutive primes.
 -/
 def consecutivePrimes {k : ℕ} (p : Fin k.succ → ℕ) :=
-    ∀ i, (p i).Prime ∧ StrictMono p ∧
-      ∀ i < k, ∀ m ∈ Set.Ioo (p i) (p (i + 1)), ¬m.Prime
+    (∀ i, (p i).Prime) ∧ StrictMono p ∧
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/786.lean]: This is a misformalization fix, right? I think better to exclude it from this PR.

File: FormalConjectures/ErdosProblems/392.lean (hunk 3 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/392.lean]: done, also below

File: FormalConjectures/ErdosProblems/306.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/306.lean]: done, also below

File: FormalConjectures/Paper/HartshorneConjecture.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/Paper/HartshorneConjecture.lean:47]: @Paul-Lez did this fix, can you comment?

We do need the second one, otherwise we get this error when setting up the `VectorBundles` `structure` below
```
failed to synthesize
  ∀ (X : TopologicalSpace.Opens ↥S), ((Opens.grothendieckTopology ↥S).over X).WEqualsLocallyBijective AddCommGrp
```

File: FormalConjectures/ErdosProblems/786.lean (hunk 8 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/786.lean]: added a TODO instead of a fix here.

File: docbuild/scripts/overwrite_index.lean (hunk 6 above)
Comment (mo271) [reply docbuild/scripts/overwrite_index.lean]: I think because `args[0]?` provides and `Option String`, but `file` is System.FilePath, and it is not coercing this without the type ascription? If I don't have it, I get:
```
failed to synthesize
  GetElem? (List String) Nat System.FilePath ?m.4829
```

Comment (eric-wieser) [reply docbuild/scripts/overwrite_index.lean]: How about `let .some (file : String)`?

File: FormalConjectures/ErdosProblems/786.lean [hunk 9]
```diff
@@ -95,8 +96,8 @@ theorem erdos_786.parts.i.selfridge (ε : ℝ) (hε : 0 < ε ∧ ε ≤ 1) :
       ∀ᶠ (p : Fin (k + 2) → ℕ) in atTop, consecutivePrimes p ∧
         ∑ i ∈ Finset.univ.filter (· < Fin.last _), (1 : ℝ) / p i < 1 ∧
           1 < ∑ i, (1 : ℝ) / p i →
-    { n | ∃! i < k, p i ∣ n }.HasDensity (1 / Real.exp 1 - ε) ∧
-      { n | ∃! i < k, p i ∣ n }.IsMulCardSet := by
+    { n | ∃! (i : Fin (k + 2)), i < k → p i ∣ n }.HasDensity (1 / Real.exp 1 - ε) ∧
+      { n | ∃! (i : Fin (k + 2)), i < k → p i ∣ n }.IsMulCardSet := by
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/786.lean:100]: This looks a little fishy, but no more so than before.

File: docbuild/scripts/overwrite_index.lean (hunk 6 above)
Comment (mo271) [reply docbuild/scripts/overwrite_index.lean]: that works and I find it also nicer!

File: FormalConjectures/Paper/HartshorneConjecture.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/Paper/HartshorneConjecture.lean:47]: added a TODO for @Paul-Lez in the code

File: FormalConjectures/ErdosProblems/786.lean (hunk 9 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/786.lean:100]: Probably good to have a look at it again...

File: FormalConjectures/ErdosProblems/786.lean (hunk 8 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/786.lean]: now done here: #1143

File: FormalConjectures/Paper/HartshorneConjecture.lean (hunk 5 above)
Comment (Paul-Lez) [reply FormalConjectures/Paper/HartshorneConjecture.lean:47]: Will take a look!
